US07375101B2
3-Amino-7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 7, 3-azido-7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (1.22 g, 3.15 mmol) and PS—PPh3 (23.0 g of 1.37 mmol/g, 31.5 mmol) were combined. After workup and purification by “catch and release,” the title compound was obtained as a brown solid (1.15 g, quantitative). 1H-NM (CDCl3): δ 8.56 (s, 1H), 7.50 (dd, J=2.4 Hz, J=8.9 Hz, 1H), 7.30 (d, J=8.8 Hz, 1H), 7.15 (d, J=2.5 Hz, 1H), 4.46 (s, 1H), 4.06 (s, 3H), 3.77 (s, 3H), 3.46 (s, 3H), 2.85-2.12 (br s, 2H). MS (ESI) (M+H)+=362.

reactant | 3-azido-7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 3.15 mmol, 1.22 g | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C=1C(=NC(=NC1)OC)OC)C=C(C=C2)Cl)C)=O | C16H14ClN7O3
reactant | PPh3 | 31.5 mmol, 23.0 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 3-Amino-7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C=1C(=NC(=NC1)OC)OC)C=C(C=C2)Cl)C)=O | C16H16ClN5O3
